US04186135
22 ml of water, 22.5 g of 7-nitro-1,4-benzodioxane-5-carboxylic acid, 65 ml of acetone and 10.5 g of triethylamine were introduced into a 250 ml balloon flask provided with an agitator and a thermometer. The mixture was cooled to 10° C. and then 14 g of isobutyl chloroformiate was added. The mixture was agitated and the temperature allowed to rise. The oily compound formed was cooled to 10° C., 11 g of N-methyl piperazine was added and then the mixture was agitated, allowing the temperature to rise. The crystals formed were washed with water. 20.5 g of 5-[(4-methyl-1-piperazinyl)-carbonyl]-7-nitro-1,4-benzodioxane was produced (M.P.: 218° C.; yield: 66.7%).

reactant | water | 22 ml | O | H2O
reactant | 7-nitro-1,4-benzodioxane-5-carboxylic acid | 22.5 g | [N+](=O)([O-])C=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H7NO6
reactant | acetone | 65 ml | CC(=O)C | C3H6O
reactant | N-methyl piperazine | 11 g | CN1CCNCC1 | C5H12N2
solvent | triethylamine | 10.5 g | C(C)N(CC)CC | C6H15N
product | 5-[(4-methyl-1-piperazinyl)-carbonyl]-7-nitro-1,4-benzodioxane | 20.5 g, yield: 66.7% | CN1CCN(CC1)C(=O)C1=CC(=CC=2OCCOC21)[N+](=O)[O-] | C14H17N3O5
